US07015218B1
N-(3-Cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)-5-methoxypyrazole-4-carboxamide
To a methanol solution (20 ml) containing metallic sodium (0.065 g) were added 5-chloro-N-(3-cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)pyrazole-4-carboxamide (1 g) and a catalytic amount of potassium iodide, and the mixture was stirred at 65° C. for 5 h. The solvent was evaporated. Water was added to the residue to allow crystallization. The crystals were recrystallized from hydrous methanol to give the title compound (0.3 g), melting point: 120–123° C.

reactant | sodium | 0.065 g | [Na] | Na
reactant | 5-chloro-N-(3-cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)pyrazole-4-carboxamide | 1 g | ClC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NC1=CC(=C(C=C1)OCC(C)(C)C)C#N | C22H20ClFN4O2
reactant | potassium iodide | [I-].[K+]
reactant | methanol | 20 ml | CO | CH4O
product | N-(3-Cyano-4-neopentyloxyphenyl)-1-(4-fluorophenyl)-5-methoxypyrazole-4-carboxamide | 0.3 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1C=NN(C1OC)C1=CC=C(C=C1)F | C23H23FN4O3
